US04827004
A solution of 4.1 g (0.016 mol) of (E,E)-3,7,11-trimethyl-10-oxo-2,6,11-dodecatrienamide in 125 ml of methanol is treated with 3.5 ml of 2-mercaptoethanol and 7 ml of triethylamine. The solution is stirred at room temperature for 18 hours. After removing the solvent the residue is taken up three times in toluene and freed from solvent on a rotary evaporator. The residue is chromatographed on silica gel with ether-methanol 10:1. There is obtained (2E,6E)-12-(2-hydroxyethyl)-3,7,11-trimethyl-10-oxo-2,6-dodecadienamide which exhibits the following absorption bands in the IR spectrum: 3340 cm-1, 3201 cm-1, 2924 cm-1, 1707 cm-1, 1669 cm-1, 1608 cm-1, 1409 cm-1, 1369 cm-1, 1305 cm-1, 1046 cm-1, 1012 cm-1.

reactant | (E,E)-3,7,11-trimethyl-10-oxo-2,6,11-dodecatrienamide | 0.016 mol, 4.1 g | C\C(=C/C(=O)N)\CC\C=C(\CCC(C(=C)C)=O)/C | C15H23NO2
reactant | 2-mercaptoethanol | 3.5 ml | SCCO | C2H6OS
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 125 ml | CO | CH4O
product | (2E,6E)-12-(2-hydroxyethyl)-3,7,11-trimethyl-10-oxo-2,6-dodecadienamide | OCCCC(C(CC/C(=C/CC/C(=C/C(=O)N)/C)/C)=O)C | C17H29NO3
